US06103732
2-(4-Methyl-2-quinolinyloxy)-3-methoxy-3,3-diphenylpropionic acid
1.8 g (4.2 mmol) of methyl 2-(4-methyl-2-quinolinyloxy)-3-meth-oxy-3,3-diphenylpropionate were dissolved in 25 ml of dioxane, 8.4 ml of 1N KOH solution were added, and the mixture was stirred at 60° C. for 20 hours. The solution was diluted with 300 ml of water and extracted with ethyl acetate to remove unreacted ester and impurities. The aqueous phase was then adjusted to pH 1-2 with dilute hydrochloric acid and was extracted with ethyl acetate. Drying over magnesium sulfate and removal of the solvent by distillation resulted in 1.0 g of a foam. This was dissolved in a little ethyl acetate and left to stand at room temperature overnight, during which 265 mg of the product separated out as white crystals. Repetition of this procedure with the mother liquor afforded a further 166 mg of the product.

reactant | methyl 2-(4-methyl-2-quinolinyloxy)-3-meth-oxy-3,3-diphenylpropionate | 4.2 mmol, 1.8 g | CC1=CC(=NC2=CC=CC=C12)OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C27H25NO4
reactant | KOH | 1N, 8.4 ml | [OH-].[K+]
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
product | 2-(4-Methyl-2-quinolinyloxy)-3-methoxy-3,3-diphenylpropionic acid | 1.0 g | CC1=CC(=NC2=CC=CC=C12)OC(C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C26H23NO4
